US07935815B2
Synthesis of 2-(3,4,5-trifluorophenyl)-4-pentenoic acid
n-Butyl lithium (7.89 mL; 2.66 M solution in hexane) was added to a solution of 3,4,5-trifluorophenylacetic acid (2 g) in THF (50 mL) at −78° C. The reaction solution was stirred at −78° C. for 20 minutes. Then, the reaction solution was heated to 0° C. and further stirred for 30 minutes. Allyl bromide (0.999 mL) was added dropwise to the reaction solution, and the reaction solution was stirred at room temperature for three hours. A 1 N sodium hydroxide solution and diethyl ether were added to the reaction solution, and the aqueous layer was separated. 5 N hydrochloric acid and ethyl acetate were added to the resulting aqueous layer, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1.45 g of the title compound. The property values of the compound are as follows.

reactant | n-Butyl lithium | 2.66 M, 7.89 mL | C(CCC)[Li]
reactant | 3,4,5-trifluorophenylacetic acid | 2 g | FC=1C=C(C=C(C1F)F)CC(=O)O | C8H5F3O2
reactant | Allyl bromide | 0.999 mL | C(C=C)Br | C3H5Br
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(3,4,5-trifluorophenyl)-4-pentenoic acid | 1.45 g | FC=1C=C(C=C(C1F)F)C(C(=O)O)CC=C | C11H9F3O2
